US06313122B1
B. 6-Nitro-2-(4-tert-butylphenyl)-4H-3,1-benzoxazin-4-one
To a suspension of 2-(4-tert-butylbenzoylamino)-5-nitrobenzoic acid (37.1g, 108 mmol) and N,N-dimethylformamide (0.4 mL, 5.4 mmol) in methylene chloride (200 mL) was added oxalyl chloride (10.4 mL, 119 mmol) in a dropwise manner. After stirring for 2 h, the mixture was filtered and the small amount of black solid was discarded. The filtrate was concentrated in vacuo to give 32.9 g (94%) of the title compound as a light brown solid; mp 159-61° C.

reactant | 2-(4-tert-butylbenzoylamino)-5-nitrobenzoic acid | 108 mmol, 37.1g | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)O)C=C(C=C2)[N+](=O)[O-])C=C1 | C18H18N2O5
reactant | oxalyl chloride | 119 mmol, 10.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 5.4 mmol, 0.4 mL | CN(C=O)C | C3H7NO
product | 6-Nitro-2-(4-tert-butylphenyl)-4H-3,1-benzoxazin-4-one | 32.9 g, 94% | [N+](=O)([O-])C=1C=CC2=C(C(OC(=N2)C2=CC=C(C=C2)C(C)(C)C)=O)C1 | C18H16N2O4
